US07091353B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.7 g, 4.62 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.6 g, 1.85 mmol) in CH3CN (50 ml). After stirring for 20 min, 1-hydroxybenzotriazole (0.3 g, 2.22 mmol), N-BOC-b-alanine (0.42 g, 2.22 mol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodimide hydrochloride 0.53 g, 2.78 mmol) were added. The mixture was stirred at room temperature for 17 hours. The solvent was removed in vacuo and the residue was dissolved in CH2Cl2 (70 ml). The CH2Cl2 solution was washed with 1N citric acid (30 ml), H2O (2×30 ml), brine (30 ml) and dried (MgSO4). The solvent was removed in vacuo and the residue was purified by chromatography (SiO2, CH2Cl2:CH3OH 100:2) to give 3-[(tert-butoxy)carbonylamino]-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}propanamide (0.57 g, 67%) as a white solid: mp 96–98° C.; 1H NMR (DMSO-d6) δ d 11.14 (s, 1H), 8.50 (t, J=5.8 Hz, 1H), 7.82–7.67 (m, 3H), 6.81 (t, J=5.1 Hz, 1H), 5.19–5.11 (dd, J=5.4 and 12.4 Hz, 1H), 4.72 (d, J=5.7 Hz, 2H), 3.21–3.13 (dd, J=6.8 and 13.1 Hz, 2H), 2.92–2.85 (m, 1H), 2.64–2.33 (m, 4H), 2.08–2.04 (m, 1H), 1.37 (s, 9H); 13C NMR (DMSO-d6) δ d 172.71, 170.87, 169.77, 167.46, 166.93, 155.45, 139.27, 134.67, 133.17, 131.47, 127.03, 121.80, 77.57, 48.84, 37.63, 36.69, 35.62, 30.91, 28.21, 21.96; Anal. Calcd. For C22H26N4O7+0.28 H2O: C, 57.01; H, 5.78; N, 12.09. Found: C, 56.99; H, 5.89; N, 11.79.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 4.62 mmol, 0.7 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.85 mmol, 0.6 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | 1-hydroxybenzotriazole | 2.22 mmol, 0.3 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-BOC-b-alanine | 2.22 mol, 0.42 g | C(=O)(OC(C)(C)C)NCCC(=O)O | C8H15NO4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodimide hydrochloride | 2.78 mmol, 0.53 g | Cl.CN(CCCN=C=NCC)C
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | 3-[(tert-butoxy)carbonylamino]-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}propanamide | 0.57 g, 67% | C(C)(C)(C)OC(=O)NCCC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C22H26N4O7
